US07132544B2
4-(4-Fluorophenyl)-2-bromo-1-(3-phenylpropyl)-5-(4-pyridyl)-imidazole
1,3-Dihydro-1-(3-phenylpropyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-2H-imidazol-2-one (100 g, 0.26 mol) was mixed with POBr3 (268.7 g, 0.93 mol) and sulfolane (200 g) and the reaction mixture was heated to a temperature of 120–125° C. for 1–2 h. Upon completion, the reaction mixture was cooled to 40° C. Cautiously, over about 30 min, 2N NaOH solution (53 g) was added. Additional 2N NaOH solution (53 g) was then added at faster rate. The reaction mixture was then cooled to 15–20° C. and 4N NaOH solution (802 g) was added to adjust the solution to pH 7–8. The aqueous phase was extracted with t-butylmethyl ether (3×143 g) and the organic phases combined. To the combined organic phase was added t-butylmethyl ether (107 g). The solution was washed with water (2×150 g), resulting in the precipitation of a solid, which was collected by filtration.

reactant | 1,3-Dihydro-1-(3-phenylpropyl)-4-(4-fluorophenyl)-5-(4-pyridyl)-2H-imidazol-2-one | 0.26 mol, 100 g | C1(=CC=CC=C1)CCCN1C(NC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F)=O | C23H20FN3O
reactant | POBr3 | 0.93 mol, 268.7 g | P(=O)(Br)(Br)Br | Br3OP
reactant | sulfolane | 200 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | NaOH | 2N, 53 g | [OH-].[Na+]
reactant | NaOH | 2N, 53 g | [OH-].[Na+]
reactant | NaOH | 4N, 802 g | [OH-].[Na+]
product | 4-(4-Fluorophenyl)-2-bromo-1-(3-phenylpropyl)-5-(4-pyridyl)-imidazole | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)CCCC1=CC=CC=C1)Br | C23H19BrFN3
